US05387397
N-(2-benzoylethyl)-N,N,N-trimethylammonium iodide (5.0 g) was suspended in water (400 ml) and the mixture passed through the CMR (15 ml/min; 90°-95° C.; atmospheric pressure) and the hot product collected in a mixture of ice (250 g) and diethyl ether (100 ml), in a flask which was cooled in an ice bath. The ether phase was separated and the aqueous extracted with ether (3×150 ml). The pooled organic phase was dried over anhydrous sodium sulphate and evaporated to dryness, affording phenylvinyl ketone as a colourless oil (1.95 g; 94% yield) in high purity, according to the 1H NMR spectrum; cf ref.15, where a yield of 51% was obtained.

reactant | N-(2-benzoylethyl)-N,N,N-trimethylammonium iodide | 5.0 g | [I-].C(C1=CC=CC=C1)(=O)CC[N+](C)(C)C
solvent | water | 400 ml | O | H2O
product | phenylvinyl ketone | 94% yield | C1(=CC=CC=C1)C(=O)C=C | C9H8O
